US08389526B2
(rac)-1-(6-Chloro-imidazo[1,2-b]pyridazin-3-yl)-1-(6-fluoro-1-methyl-1H-indazol-5-yl)ethanol (i)
To a stirred suspension of (6-chloro-imidazo[1,2-b]pyridazin-3-yl)-(6-fluoro-1-methyl-1H-indazol-5-yl)-methanone ((ii), 25.45 g, 74 mmol) and THF (4 L) was added methyl magnesium bromide (3 M, 43 mL) at 38° C. during 15 min. The mixture was stirred at 38° C. for 20 min. The RM was cooled to RT, quenched with 1M NaHCO3 and extracted with EtOAc (3×). The organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. The title compound was obtained after crystallization in DCM-TBME (1:2) as a beige solid (tR 3.30 min (conditions 1); MH+=346).

reactant | (6-chloro-imidazo[1,2-b]pyridazin-3-yl)-(6-fluoro-1-methyl-1H-indazol-5-yl)-methanone | 74 mmol, 25.45 g | ClC=1C=CC=2N(N1)C(=CN2)C(=O)C=2C=C1C=NN(C1=CC2F)C | C15H9ClFN5O
reactant | methyl magnesium bromide | 3 M, 43 mL | C[Mg]Br
solvent | THF | 4 L | C1CCOC1 | C4H8O
product | (rac)-1-(6-Chloro-imidazo[1,2-b]pyridazin-3-yl)-1-(6-fluoro-1-methyl-1H-indazol-5-yl)ethanol | ClC=1C=CC=2N(N1)C(=CN2)C(C)(O)C=2C=C1C=NN(C1=CC2F)C | C16H13ClFN5O
